US06420364B1
N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-2-(5,6-difluoro-3-oxo-3H-isoindol-1-ylamino)propionamide
The title compound was prepared from 5,6-difluoro-2,3-dihydro-3-imino-1H-isoindol-1-one and 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt according to the procedure from Example 86. MS, m/z 458.3=M+1.

reactant | 5,6-difluoro-2,3-dihydro-3-imino-1H-isoindol-1-one | FC=1C=C2C(NC(C2=CC1F)=O)=N | C8H4F2N2O
reactant | 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt | Cl.Cl.NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1
product | N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-2-(5,6-difluoro-3-oxo-3H-isoindol-1-ylamino)propionamide | C(#N)C1(CCN(CC1)C)NC(C(CC1CCCCC1)NC1=NC(C2=CC(=C(C=C12)F)F)=O)=O | C24H29F2N5O2
